US07632928B2
Synthesis of 5-(2,4-Dioxoimidazolidin-1-ylimino)-4-oxo-pent-2-enenitrile (nitrofurantoin metabolite, NFTM 1):
A solution of 5-azido-2-furaldehyde (240 mg, 1.75 millimole (mmole)) in 20 milliliters (ml) of ethanol was added dropwise over 10-20 minutes to a solution of 1-aminohydantoin hydrochloride (320 mg, 2.1 mmole) in 25 ml of ethanol:water (4:1) and the mixture was chilled in an ice bath. The reaction mixture turned into a yellow-orange suspension within thirty minutes and was gradually heated to about 60° C. to form a complete solution. The heating continued for another 24 hours after which time it was allowed to cool and evaporated to dryness. The dark residue was triturated with 4-5 portions (15 ml each) of acetonitrile to obtain a suspension which was then filtered through a filter paper. The filtrate was evaporated to dryness. The residue was dissolved in 3 ml of acetone and streaked on two preparative silica gel TLC plates (EM Science, Cat # 5717-7) and developed with ethyl acetate: petroleum ether (3:1). The fast moving major band (Rf around 0.51) detected under UV light was stripped, and the silica gel was ground to a fine powder and eluted with acetone. The acetone eluent was evaporated to give a pale yellow solid which showed a homogeneous single spot on TLC (137 mg, 0.67 mmole, 38% yield). Alternatively the crude reaction product can be purified by silica gel column chromatography and further recrystallized from 30% ethyl acetate/hexanes to give the pure desired product (mp 171-173° C.). Elemental analysis supported a molecular formula of C8H6N4O3. 0.15 EtOAc. The structure of compound 1 was established by 1H and 13C NMR analysis as shown in FIGS. 1-4. 1H NMR analysis of 1 revealed that the acrylonitrile moiety has a trans (E)-configuration (coupling constant J=16.5 Hz). MALDI-TOF mass spectral analysis confirmed structure 1 with the M+1 peak of 207.22

reactant | 5-azido-2-furaldehyde | 1.75 millimole, 240 mg | N(=[N+]=[N-])C1=CC=C(O1)C=O | C5H3N3O2
reactant | 1-aminohydantoin hydrochloride | 2.1 mmole, 320 mg | Cl.NN1C(=O)NC(=O)C1
solvent | ethanol | 20 milliliters | C(C)O | C2H6O
solvent | ethanol water | 25 ml | C(C)O.O
product | 5-(2,4-Dioxoimidazolidin-1-ylimino)-4-oxo-pent-2-enenitrile | 38% yield | O=C1N(CC(N1)=O)N=CC(C=CC#N)=O | C8H6N4O3
